US05519040
To a solution of ammonium dithiocarbamate (1.4 g, 12.4 mmol) in 25 mL of ethanol was added 2-bromocyclohexanone (2.2 g, 12.4 mmol). The reaction was stirred at rt overnight. The next morning the reaction was heated at 70° C. for 1 h. The solvent was removed under reduced pressure. The product was subjected to flash chromatography (3:1 hexane/ethyl acetate) to recover a yellow solid. Recrystallization from ethyl acetate afforded 0.54 g of 2-mercapto-4,5,6,7-tetrahydrobenzothiazole.

reactant | ammonium dithiocarbamate | 12.4 mmol, 1.4 g | C(N)([S-])=S.[NH4+]
reactant | 2-bromocyclohexanone | 12.4 mmol, 2.2 g | BrC1C(CCCC1)=O | C6H9BrO
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-mercapto-4,5,6,7-tetrahydrobenzothiazole | 0.54 g | SC=1SC2=C(N1)CCCC2 | C7H9NS2
